US09193669B2
A mixture of 2-(3-(3-(2-hydroxy-2-propylpentylamino)phenyl)propyl)isoindoline-1,3-dione (0.22 g, 0.71 mmol) and hydrazine hydrate (0.1 ml, 1.6 mmol) in ethanol was stirred at room temperature for 24 hours. The solvent was evaporated under reduced pressure. Purification by column chromatography (5% to 10% MeOH—CH2Cl2 gradient) gave 4-((3-(3-aminopropyl)phenylamino)methyl)heptan-4-ol as a light yellow semisolid. Yield (0.06 g, 18%); 1H NMR (400 MHz, DMSO-d6) δ 6.93 (t, J=7.6 Hz, 1H), 6.44-6.41 (m, 2H), 6.35 (d, J=7.6 Hz, 1H), 4.92 (t, J=5.2 Hz, 1H), 4.19 (bs, 1H), 2.87 (d, J=5.2 Hz, 2H), 2.54-2.50 (m, 2H), 2.44 (t, J=7.6 Hz, 2H), 1.55-1.62 (quintet, J=7.2 Hz, 2H), 1.42-1.33 (m, 4H), 1.32-1.27 (m, 4H), 0.85 (t, J=7.2 Hz, 6H); RP-HPLC (Method 3) tR=4.44 min, 97.48% (AUC); ESI MS m/z 279.31 [M+H]+.

reactant | 2-(3-(3-(2-hydroxy-2-propylpentylamino)phenyl)propyl)isoindoline-1,3-dione | 0.71 mmol, 0.22 g | OC(CNC=1C=C(C=CC1)CCCN1C(C2=CC=CC=C2C1=O)=O)(CCC)CCC | C25H32N2O3
reactant | hydrazine hydrate | 1.6 mmol, 0.1 ml | O.NN
solvent | ethanol | C(C)O | C2H6O
product | 4-((3-(3-aminopropyl)phenylamino)methyl)heptan-4-ol | NCCCC=1C=C(C=CC1)NCC(CCC)(CCC)O | C17H30N2O
